US08802697B2
Synthesis of 5-((3,5-dimethoxyphenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine
A mixture of 4-(methylamino)-2-(methylthio)pyrimidine-5-carbaldehyde (1.0 g, 5.46 mmol) and 3,5-dimethoxyaniline (840 mg, 5.46 mmol) in methanol (60 mL) was stirred at RT for 3 h, followed by the addition of sodium cyanoborohydride (520 mg, 8.20 mmol) and 1 mL of acetic acid. The reaction mixture was then stirred at RT for another 4 h. LCMS showed the reaction was completed. The reaction was quenched by 30 mL of 1N HCl, then stirred for 0.5 h and extracted with ethyl acetate (3×50 mL). The organic layers were separated, combined, washed with saturated aqueous solution of sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated to afford the title compound (crude 1.2 g, 69%) as a white solid, which was directly used in the next step without further purification. MS (ES+) C15H20N4O2S requires: 320. found: 321 [M+H]+.

reactant | 4-(methylamino)-2-(methylthio)pyrimidine-5-carbaldehyde | 5.46 mmol, 1.0 g | CNC1=NC(=NC=C1C=O)SC | C7H9N3OS
reactant | 3,5-dimethoxyaniline | 5.46 mmol, 840 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | sodium cyanoborohydride | 8.20 mmol, 520 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 60 mL | CO | CH4O
product | 5-((3,5-dimethoxyphenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine | COC=1C=C(C=C(C1)OC)NCC=1C(=NC(=NC1)SC)NC | C15H20N4O2S
